* source LAB12
R_R1         N00880 N00217  33k TC=0,0 
C_C1         0 N00217  1n  TC=0,0 
C_C2         0 N00224  1n  TC=0,0 
C_C3         0 N00233  1n  TC=0,0 
R_R2         N00905 N00224  6.6k TC=0,0 
R_R3         N00909 N00233  165k TC=0,0 
V_V1         N00880 0  AC 1V
+SIN 0 0 0 0 0 0
V_V2         N00905 0  AC 1V
+SIN 0 0 0 0 0 0
V_V3         N00909 0  AC 1V
+SIN 0 0 0 0 0 0
