* source LAB3_2
V_V1         0 N00202 DC 12  
I_I1         0 N00211 DC 0.002  
I_I2         0 N00211 DC 0.001  
V_V2         N00211 N00237 DC 8  
R_R1         0 N00237  4k TC=0,0 
R_R2         N00202 N00211  4k TC=0,0 
